US08202858B2
3-Methyl-4,9-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-10-one
Sodium (methylsulphinyl)methanide (29.7 mmol) was pre-pared from sodium hydride (60% dispersion in oil, 1.19 g, 29.7 mmol) and anhydrous dimethyl sulphoxide (7 ml) by heating at 65° C. until a solution was observed. To this was added a solution of 5-(2-amino-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester from Example E11.2 (3.63 g, 16.9 mmol) in anhydrous dimethyl sulphoxide (10 ml), and stirring continued at 65° C. for 2.5 h. The mixture was poured into ice (100 ml), and the resulting solid collected and purified by recrystallisation from methanol/EtOAc/60-80 pet ether to yield the title compound (1.46 g, 40%).

reactant | Sodium (methylsulphinyl)methanide | 29.7 mmol | CS(=O)[CH2-].[Na+]
reactant | sodium hydride | 29.7 mmol, 1.19 g | [H-].[Na+]
reactant | 5-(2-amino-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1NC1=C(C=CC=C1)N)C | C13H16N4O2
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 7 ml | CS(=O)C | C2H6OS
product | 3-Methyl-4,9-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-10-one | 1.46 g, 40% | CN1N=CC=2C(NC3=C(NC12)C=CC=C3)=O | C11H10N4O
